US07064142B2
Production of the Optical Active (5S)-4-(4-fluorophenyl)-4-(6-fluoro-3-pyridyl)-5-methyl-2-(1,2,5-thiadiazol-3-yl)-2-imidazoline
Triethylamine(23 mg) and 1,1′-carbonyldiimidazole(37 mg) were added to a solution of 1,2,5-thiadiazole-3-carboxylic acid(30 mg) in tetrahydrofuran(3 mL) in this order, and the mixture was stirred at room temperature for one hour. A solution of (2S)-1-(4-fluorophenyl)-1-(6-fluoro-3-pyridyl)-1,2-propanediamine (50 mg) described in Reference Example 5-1 in tetrahydrofuran (1 mL) was added to the above reaction mixture, and the resultant mixture was stirred at room temperature for 17 hours. The reaction mixture was concentrated in vacuo, and then the obtained residue was dissolved in ethyl acetate. Then the solution was washed with water and saturated sodium chloride aqueous solution in this order, and dried over anhydrous sodium sulfate. Sodium sulfate was removed by filtration, and the organic solvent was evaporated in vacuo. The obtained crude product was dissolved in toluene (0.5 mL). Ytterbium triflomethanesulfonate (12 mg) was added to the solution, and then the mixture was stirred at 100° C. for 10 hours. The reaction mixture was diluted with ethyl acetate, and the dilution was washed with saturated sodium hydrogen carbonate aqueous solution, water and saturated sodium chloride aqueous solution in this order. The mixture was dried over anhydrous sodium sulfate. Sodium sulfate was removed by filtration, and the organic solvent was evaporated in vacuo. The obtained residue was purified by silica gel column chromatography (C-300; hexane:ethyl acetate=2:3) to give the objective compound (37 mg) as colorless oil.

reactant | 1,1′-carbonyldiimidazole | 37 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1,2,5-thiadiazole-3-carboxylic acid | 30 mg | S1N=C(C=N1)C(=O)O | C3H2N2O2S
reactant | (2S)-1-(4-fluorophenyl)-1-(6-fluoro-3-pyridyl)-1,2-propanediamine | 50 mg | FC1=CC=C(C=C1)C([C@H](C)N)(N)C=1C=NC(=CC1)F | C14H15F2N3
reactant | Ytterbium | 12 mg | [Yb] | Yb
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Triethylamine | 23 mg | C(C)N(CC)CC | C6H15N
product | (5S)-4-(4-fluorophenyl)-4-(6-fluoro-3-pyridyl)-5-methyl-2-(1,2,5-thiadiazol-3-yl)-2-imidazoline | 37 mg | FC1=CC=C(C=C1)C1(N=C(N[C@H]1C)C1=NSN=C1)C=1C=NC(=CC1)F | C17H13F2N5S
